US06964961B2
A. (+/−)-Dimethylsulfamic acid methyl-{1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide
The title compound was prepared from dimethylsulfamoyl chloride and (3-methylamino-pyrrolidin-1-yl)-(7-chloro-thieno[3,2-b]pyridin-2yl)-methanone by a procedure analogous to Example 64C. MS: 403/405 (MH+); HPLC Rf: 4.76 min.; HPLC purity 98%.

reactant | dimethylsulfamoyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | (3-methylamino-pyrrolidin-1-yl)-(7-chloro-thieno[3,2-b]pyridin-2yl)-methanone | CNC1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)Cl | C13H14ClN3OS
product | (+/−)-Dimethylsulfamic acid methyl-{1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide | CN(S(N(C)C)(=O)=O)C1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)Cl | C15H19ClN4O3S2
